### PR TITLE
Contribution

### PR DESCRIPTION
**Pull request by pPomCo**
##### Motivation for this change

We propose several general lemmas that concern especially finsets and bigops (selection of lemmas from https://github.com/pPomCo/coq-belgames-csl2023)

I hope they will be useful, and that they are correctly integrated in MathComp. 
Do not hesitate to contact me.

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -1072,6 +1072,12 @@ Proof. by rewrite mulrnAl mul1r. Qed.
 Lemma mulr_natr x n : x * n%:R = x *+ n.
 Proof. by rewrite mulrnAr mulr1. Qed.
 
+Lemma mulr_ll x y z : y = z -> x * y = x * z.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:1075]: Could you explain what you find this useful for? It seems to me that
```Coq
rewrite (mulr_ll eq)
```
could be done with
```Coq
rewrite [X in _ * X]eq
```
and
```Coq
apply: mulr_ll
```
could be done with
```Coq
congr (_ * _)
```

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -4977,6 +4983,13 @@ move=> yD0 tD0; rewrite -[x in RHS](divfK yD0) -[z in RHS](divfK tD0) mulrAC.
 by apply/eqP/eqP => [->|/(mulIf yD0)/(mulIf tD0)].
 Qed.
 
+Lemma sum_div_eq1 (X : finType) (P : pred X) (cst : F) (Hcst : cst != 0) (f : X -> F) :
+  (\big[+%R/0%R]_(x : X | P x) (f x / cst) == 1%R)%R = (\big[+%R/0%R]_(x : X | P x) f x == cst).
+Proof.
+rewrite -(divr1 1) -big_distrl /= eqr_div // ; first by rewrite mulr1 mul1r.
+by rewrite oner_eq0.
+Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:4991]: Can be generalized a bit:
```suggestion
Lemma eqr_sum_div I r P (f : I -> F) c a : c != 0 ->
  \big[+%R/0]_(x <- r | P x) (f x / c) == a
  = (\big[+%R/0]_(x <- r | P x) f x == a * c).
Proof.
by move=> ?; rewrite -mulr_suml -(divr1 a) eqr_div ?oner_eq0// mulr1 divr1.
Qed.
```
(the form `x <- r` is the most generic form of bigop, so this would also work for fintypes).

File: mathcomp/algebra/ssrnum.v [hunk 3]
```diff
@@ -1221,6 +1221,9 @@ Qed.
 
 Lemma ltr01 : 0 < 1 :> R. Proof. by rewrite lt_def oner_neq0 ler01. Qed.
 
+Lemma neq01 : 0 != 1 :> R.
+Proof. have := ltr01 ; by rewrite lt_def eq_sym => /andP [-> _]. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssrnum.v:1225]:
```suggestion
Lemma ner01 : 0 != 1 :> R.
Proof. by rewrite eq_sym oner_eq0. Qed.
```
But I wonder how useful this really is, considering the simplicity of the proof.

File: mathcomp/algebra/ssrnum.v [hunk 4]
```diff
@@ -1230,6 +1233,12 @@ rewrite le0r; case/predU1P=> [-> | x_pos]; rewrite ?add0r // le0r.
 by case/predU1P=> [-> | y_pos]; rewrite ltW ?addr0 ?addr_gt0.
 Qed.
 
+Lemma addr_gte0 x y : 0 < x -> 0 <= y -> 0 < x + y.
```
Comment (proux01) [inline mathcomp/algebra/ssrnum.v:1236]: Isn't this subsumed by `ltr_spaddl`?

File: mathcomp/algebra/ssrnum.v [hunk 5]
```diff
@@ -2048,6 +2057,22 @@ move=> F_ge0 /eqP; rewrite psumr_eq0 // -big_all big_andE => /forallP hF i Pi.
...
+have Hex : exists i : I, ~~ ~~ (P i && (f i != 0)).
+apply/forallPn/negP => /forallP Hcontra.
+have Hcontra2 : \sum_(i | P i) f i = 0. apply/eqP. rewrite psumr_eq0 => //=.
+apply/allP => i _ ; apply/implyP => Hi ; apply/eqP.
+move: (Hcontra i) ; by rewrite Hi andTb Bool.negb_involutive => /eqP ->.
+move: Hsum2 ; by rewrite Hcontra2 lt0r eqxx andFb.
+destruct Hex as [i Hi] ; exists i.
+have [Hi1 Hi2] := andP (negPn Hi).
+by rewrite lt0r Hi1 Hi2 Hge0.
+Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssrnum.v:2074]: Can be simplified a bit
```suggestion
Lemma psumr_neq0 (I : eqType) (r : seq I) (P : pred I) (F : I -> R) :
    (forall i, P i -> 0 <= F i) ->
  (\sum_(i <- r | P i) (F i) != 0) = (has (fun i => P i && (0 < F i)) r).
Proof.
move=> F_ge0; rewrite psumr_eq0// -has_predC; apply: eq_has => x /=.
by case Px: (P x); rewrite //= lt_def F_ge0 ?andbT.
Qed.

Lemma psumr_neq0P (I : finType) (P : pred I) (F : I -> R) :
     (forall i, P i -> 0 <= F i) -> \sum_(i | P i) F i <> 0 ->
  (exists i, P i && (0 < F i)).
Proof. by move=> ? /eqP; rewrite psumr_neq0// => /hasP[x _ ?]; exists x. Qed.
```

File: mathcomp/algebra/ssrnum.v [hunk 6]
```diff
@@ -5435,6 +5460,13 @@ rewrite !le_def => /predU1P [<-|x_gt0]; first by rewrite add0r.
 by case/predU1P=> [<-|y_gt0]; rewrite ?addr0 ?x_gt0 ?lt0_add // orbT.
 Qed.
 
+Fact lte0_add x y : 0 < x -> 0 <= y -> 0 < x + y.
```
Comment (proux01) [inline mathcomp/algebra/ssrnum.v:5463]: What's the difference with `addr_gte0` above?

**Review by proux01 — COMMENTED** [review]
Thanks for the contribution. I've only reviewed algebra yet.
I should have a look to ssreflect (but I know nothing to finset that I never used myself).

File: mathcomp/algebra/ssrnum.v (hunk 5 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v:2074]: Should probably even use exists2 (saves a destruct (or rather a pair of `[ ]`) when using it):
```Coq
Lemma psumr_neq0P (I : finType) (P : pred I) (F : I -> R) :
     (forall i, P i -> 0 <= F i) -> \sum_(i | P i) F i <> 0 ->
  (exists2 i, P i & (0 < F i)).
```

File: mathcomp/ssreflect/order.v [hunk 7]
```diff
@@ -4292,6 +4292,81 @@ Proof. exact: total_homo_mono_in. Qed.
 End TotalMonotonyTheory.
 End TotalTheory.
 
+Section MinMaxMonoids.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:4295]: If I understand correctly, your goal is to build Monoid structures on min/max to be able to use all bigop lemmas on them. Your solution works well and this is probably the easiest one, hence the best choice for you. You are right that this min/max thing is a clear limitation of the library. However, I'm not sure we want to choose the path you propose here. Indeed, the drawback of defining new functions `omin` and `omax` is that you would have to reprove a bunch of lemmas about them. An alternative would be to declare an order structure on `option` (for instance making `none` greater that everything would make `Order.min` on this structure work as `omin`). Unfortunately this structure is not the same for `omin` and `omax` (`none` should be less than everything in that latter case) and working with different structures on the same type is rather painful. Thus we are pursuing the two following paths in the library:

* generalize lemmas on monoid to semigroups or semigroups with an idempotent element (min and max being both idempotent for every element), this would allow to extend the Monoid hierarchy in the new port to hierarchy builder to use most bigop lemmas on min and max, there is an ongoing PR for that: https://github.com/math-comp/math-comp/pull/910
* define an extended type with infinities, like in the `constructive_ereal.v` file in Analysis: https://github.com/math-comp/analysis/blob/master/theories/constructive_ereal.v Thus your `omin` and `omax` would just be `Order.min` and `Order.max` on this type, enabling to reuse all order lemmas. This work still needs to be integrated in MathComp proper.

**Review by proux01 — COMMENTED** [review]
All the `fin*.v` things would have to be reviewed by someone else as I'm not qualified on them. More generally, this pull request contains many things that are pretty unrelated. I think cutting it into smaller PRs would help merging them faster (for instance the algebra things
could probably be merged rapidly).

File: mathcomp/ssreflect/order.v (hunk 7 above)
Comment (pPomCo) [reply mathcomp/ssreflect/order.v:4295]: Thanks proux01 for your fast review.
As you suggest, I will propose smaller pull requests in order to split finType-related and algebra-related lemmas. 
Also I will take into account all the useful comments you made for this PR.

File: mathcomp/algebra/ssralg.v (hunk 1 above)
Comment (pPomCo) [reply mathcomp/algebra/ssralg.v:1075]: Thanks for the syntax (and so it is useless)

File: mathcomp/algebra/ssralg.v (hunk 2 above)
Comment (pPomCo) [reply mathcomp/algebra/ssralg.v:4991]: Thanks

File: mathcomp/algebra/ssrnum.v (hunk 4 above)
Comment (pPomCo) [reply mathcomp/algebra/ssrnum.v:1236]: Yes it is

File: mathcomp/ssreflect/eqtype.v [hunk 8]
```diff
@@ -547,6 +547,9 @@ End ComparableType.
 Definition eq_comparable (T : eqType) : comparable T :=
   fun x y => decP (x =P y).
 
+Lemma eq_comparable_prop (T : eqType) (t1 t2 : T) : t1 = t2 \/ t1 <> t2.
```
[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/eqtype.v:550]: I use it as an argument of Eqdep_dec.eq_proofs_unicity, for instance:
`Eqdep_dec.eq_proofs_unicity (@eq_comparable_prop bool_eqType)`

**Comment by pPomCo** [comment]
Thanks proux01 for your fast review.
As you suggest, I will propose smaller pull requests in order to split finType-related and algebra-related lemmas.
Also I will take into account all the useful comments you made for this PR.
